US07713994B2
4-tert-Butyl-2-carboxymethyl-benzoic acid
To a magnetically stirred solution of diisopropyl amine (0.75 g, 7.4 mmol) in THF (5 mL) at −30° C. is added BuLi (3.4 mL, 2.5 M in hexanes, 8.5 mmol). The mixture is stirred for 10 minutes at this temperature and cooled to −78° C. A solution of 4-tert-Butyl-2-methyl-benzoic acid [J. Am. Chem. Soc. 1944, 66, 154] (250 mg, 1.3 mmol) and dimethylcarbonate (150 mg, 1.67 mmol) in THF (3 mL) is added dropwise at −78° C. The mixture is allowed to stir at this temperature for 2 hours before it is allowed to warm to room temperature. The mixture is quenched with MeOH and water once it reached room temperature. After removal of THF, the water layer is extracted with ether. The water layer is acidified with HCl and the product is extracted from ether. After chromatography, the title compound is isolated pure (125 mg, 41%). MS (ESI): 237.1 (M+1)+1.

reactant | diisopropyl amine | 7.4 mmol, 0.75 g | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 8.5 mmol, 2.5 M, 3.4 mL | [Li]CCCC
reactant | 4-tert-Butyl-2-methyl-benzoic acid | 1.3 mmol, 250 mg | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)C | C12H16O2
reactant | dimethylcarbonate | 1.67 mmol, 150 mg | COC(OC)=O | C3H6O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-tert-Butyl-2-carboxymethyl-benzoic acid | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)CC(=O)O | C13H16O4
